US04457931
(a) N-(3,4-methylenedioxyphenyl)-2-chloropropionamide
To a solution of 3,4-methylenedioxyaniline, (41.1 grams; 0.3 moles) in 270 cc of chloroform containing 90 cc of a 20% solution of sodium hydroxide, there is added 38.1 grams (0.3 moles) of 2-chloropropionyl chloride at about -10° C., while stirring vigorously and keeping the temperature not above -5° C. The mixture is stirred for an additional period of one hour, letting the temperature reach room temperature. The organic phase is then separated, washed with water, neutralized with potassium carbonate and allowed to evaporate at reduced pressure, thus obtaining a solid purplish residue from which the desired product is separated and recrystallized with diisopropyl ether with melting point 116°-117° C.; Rf=0.26 (toluene-AcOEt 9:1) I.R. (nujol) νmax: 3240, 1660, 1540, 1500, 1485, 1445, 1250, 1210, 1040, 930, 815, 790 cm-1 ; chlorine (Schoeninger) calc. % 15.6--Found % 15.5.

reactant | 3,4-methylenedioxyaniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-chloropropionyl chloride | 0.3 moles, 38.1 grams | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | chloroform | 270 cc | C(Cl)(Cl)Cl | CHCl3
product | N-(3,4-methylenedioxyphenyl)-2-chloropropionamide | C1OC=2C=C(C=CC2O1)NC(C(C)Cl)=O | C10H10ClNO3
